* File: mux.pex.netlist.pex
* Created: Sat Apr 30 03:51:49 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX%GND! 1 4 10 14 20 30 43 56 104 106 108 114 129 132 140
c179 140 0 1.86058e-19
c180 129 0 3.72116e-19
c181 114 0 3.72116e-19
c182 20 0 1.92462e-19
r183 141 152 0.0238874
r184 140 143 0.0515295
r185 134 152 0.0220114
r186 130 132 0.0990945
r187 129 152 0.0238874
r188 124 150 0.0238874
r189 123 124 0.34003
r190 117 150 0.0220114
r191 114 150 0.0238874
r192 56 143 0.582909
r193 56 108 10
r194 54 56 0.592624
r195 54 108 10
r196 52 54 0.582909
r197 52 108 10
r198 50 52 0.582909
r199 50 108 10
r200 48 140 0.30117
r201 48 141 0.544048
r202 43 134 0.582909
r203 43 106 10
r204 41 43 0.592624
r205 41 106 10
r206 39 41 0.582909
r207 39 106 10
r208 37 39 0.582909
r209 37 106 10
r210 35 129 0.30117
r211 35 132 0.697548
r212 30 117 0.582909
r213 30 104 10
r214 28 30 0.592624
r215 28 104 10
r216 26 28 0.582909
r217 26 104 10
r218 24 26 0.582909
r219 24 104 10
r220 22 114 0.30117
r221 22 115 0.796642
r222 16 125 0.0220114
r223 16 123 0.0238874
r224 16 130 0.0238874
r225 14 125 1.1739
r226 14 20 10
r227 12 14 0.752952
r228 12 20 10
r229 6 110 0.0282185
r230 6 115 0.0233109
r231 4 110 1.1739
r232 4 10 10
r233 2 4 0.752952
r234 2 10 10
r235 1 48 15
r236 1 35 15
r237 1 22 15
r238 1 16 15
r239 1 6 15
.ends

.subckt PM_MUX%VDD! 10 24 38 53 65 80 92 107 203 205 207 209 211 213 215 217 219
+ 222 224 226 234 259 262
c223 259 0 1.95189e-19
c224 234 0 1.95189e-19
c225 226 0 3.90378e-19
c226 224 0 3.90378e-19
c227 222 0 3.90378e-19
c228 217 0 1.03218e-19
c229 215 0 1.98015e-19
c230 203 0 1.44885e-20
c231 92 0 1.8333e-19
r232 279 299 0.026159
r233 278 298 0.0206178
r234 277 299 0.0206178
r235 277 278 0.291055
r236 270 298 0.026159
r237 263 297 0.026159
r238 260 262 0.0914744
r239 259 297 0.0206178
r240 259 262 0.415793
r241 251 295 0.0206178
r242 250 251 0.291055
r243 243 295 0.026159
r244 236 294 0.026159
r245 234 294 0.0206178
r246 234 235 0.507267
r247 226 286 0.053567
r248 225 299 0.0206178
r249 224 298 0.0206178
r250 223 297 0.0206178
r251 222 295 0.0206178
r252 221 294 0.0206178
r253 107 219 10
r254 105 107 0.7517
r255 105 219 10
r256 103 105 0.7517
r257 103 219 10
r258 101 103 0.7517
r259 101 219 10
r260 99 286 0.507397
r261 99 101 0.501133
r262 99 219 30
r263 97 226 0.32016
r264 97 225 0.0374213
r265 97 203 15
r266 92 217 10
r267 90 92 0.7517
r268 90 217 10
r269 88 90 0.7517
r270 88 217 10
r271 86 88 0.7517
r272 86 217 10
r273 84 279 0.507397
r274 84 86 0.501133
r275 84 217 30
r276 80 215 10
r277 78 80 0.7517
r278 78 215 10
r279 76 78 0.7517
r280 76 215 10
r281 74 76 0.7517
r282 74 215 10
r283 72 270 0.507397
r284 72 74 0.501133
r285 72 215 30
r286 70 224 0.32016
r287 70 223 0.0374213
r288 70 203 15
r289 65 213 10
r290 63 65 0.7517
r291 63 213 10
r292 61 63 0.7517
r293 61 213 10
r294 59 61 0.7517
r295 59 213 10
r296 57 263 0.507397
r297 57 59 0.501133
r298 57 213 30
r299 53 209 10
r300 51 53 0.7517
r301 51 209 10
r302 49 51 0.7517
r303 49 209 10
r304 47 49 0.7517
r305 47 209 10
r306 45 243 0.507397
r307 45 47 0.501133
r308 45 209 30
r309 43 222 0.32016
r310 43 221 0.0374213
r311 43 203 15
r312 38 207 10
r313 36 38 0.7517
r314 36 207 10
r315 34 36 0.7517
r316 34 207 10
r317 32 34 0.7517
r318 32 207 10
r319 30 236 0.507397
r320 30 32 0.501133
r321 30 207 30
r322 26 252 0.026159
r323 26 250 0.0206178
r324 26 260 0.0206178
r325 26 203 15
r326 24 211 10
r327 22 24 0.752952
r328 22 211 10
r329 20 22 0.752952
r330 20 211 10
r331 18 20 0.752952
r332 18 211 10
r333 16 252 1.62117
r334 16 18 0.502386
r335 16 211 15
r336 12 227 0.0305777
r337 12 235 0.0232824
r338 12 203 15
r339 10 205 10
r340 8 10 0.752952
r341 8 205 10
r342 6 8 0.752952
r343 6 205 10
r344 4 6 0.752952
r345 4 205 10
r346 2 227 1.62117
r347 2 4 0.502386
r348 2 205 15
.ends

.subckt PM_MUX%NET10 3 11 26 29 31 32 37 42 43 45 66 68 71 73 74 77 80 81
c124 81 0 1.71613e-19
c125 73 0 1.95189e-19
c126 31 0 1.5009e-19
c127 26 0 1.57691e-19
r128 77 81 0.0476179
r129 76 77 0.722748
r130 74 76 0.0477651
r131 74 80 0.112344
r132 66 73 141.169
r133 65 71 129.829
r134 45 47 25
r135 44 81 0.0411669
r136 44 45 1.7
r137 42 47 4.17508
r138 42 43 0.833027
r139 38 43 5.18609
r140 38 66 16.0034
r141 37 43 5.18609
r142 37 65 27.5556
r143 30 80 0.112345
r144 30 31 1.7
r145 28 31 0.102894
r146 28 29 0.0611101
r147 26 31 0.101697
r148 26 27 0.0611101
r149 23 68 15
r150 20 23 0.502386
r151 20 68 10
r152 17 20 0.752952
r153 17 68 10
r154 14 17 0.752952
r155 14 68 10
r156 11 14 0.752952
r157 11 29 0.444756
r158 11 68 10
r159 7 27 0.556258
r160 7 32 10
r161 3 7 0.752952
r162 3 32 10
.ends

.subckt PM_MUX%A 4 9 10 12 14 25 31 35 51 53 56 58 60 61 64 66 69
c135 69 0 3.43289e-19
c136 66 0 8.95585e-20
c137 60 0 1.95189e-19
c138 58 0 1.95189e-19
c139 56 0 1.86058e-19
c140 12 0 1.86058e-19
r141 63 69 0.0481247
r142 63 64 0.710882
r143 62 66 0.0217966
r144 61 64 0.0477651
r145 61 62 0.112344
r146 53 60 153.887
r147 51 58 141.169
r148 50 56 129.829
r149 32 35 5.42761
r150 31 35 25
r151 31 66 1.7
r152 26 32 3.12463
r153 26 51 16.0034
r154 25 32 3.12463
r155 25 50 27.5556
r156 14 16 25
r157 13 69 0.0405697
r158 13 14 1.7
r159 9 16 4.17508
r160 9 10 0.833027
r161 5 10 5.18609
r162 5 53 16.0034
r163 4 10 5.18609
r164 3 12 69.9487
r165 3 4 16.0034
.ends

.subckt PM_MUX%NET08 3 11 26 29 31 32 37 42 43 45 66 68 71 73 74 77 80 81
c132 81 0 1.71613e-19
c133 73 0 1.95189e-19
c134 31 0 3.00917e-19
c135 29 0 4.9088e-20
c136 26 0 1.57691e-19
r137 77 81 0.0476179
r138 76 77 0.722748
r139 74 76 0.0477651
r140 74 80 0.112344
r141 66 73 141.169
r142 65 71 129.829
r143 45 47 25
r144 44 81 0.0411669
r145 44 45 1.7
r146 42 47 4.17508
r147 42 43 0.833027
r148 38 43 5.18609
r149 38 66 16.0034
r150 37 43 5.18609
r151 37 65 27.5556
r152 30 80 0.112345
r153 30 31 1.7
r154 28 31 0.102894
r155 28 29 0.0611101
r156 26 31 0.101697
r157 26 27 0.0611101
r158 23 68 15
r159 20 23 0.502386
r160 20 68 10
r161 17 20 0.752952
r162 17 68 10
r163 14 17 0.752952
r164 14 68 10
r165 11 14 0.752952
r166 11 29 0.444756
r167 11 68 10
r168 7 27 0.556258
r169 7 32 10
r170 3 7 0.752952
r171 3 32 10
.ends

.subckt PM_MUX%C 4 9 10 12 14 25 31 35 49 53 56 58 60 61 65 66 67 69 72 73
c177 69 0 3.35119e-19
c178 65 0 3.15382e-19
c179 60 0 1.95189e-19
c180 58 0 1.86058e-19
c181 56 0 1.95189e-19
c182 12 0 1.86058e-19
r183 70 73 0.853812
r184 67 73 0.0783014
r185 67 69 0.0530031
r186 65 70 0.0477651
r187 65 66 3.07006
r188 63 66 0.0477651
r189 63 72 0.0864182
r190 61 72 0.0766633
r191 53 60 141.169
r192 52 58 129.829
r193 49 56 153.887
r194 32 35 5.42761
r195 31 35 25
r196 31 69 1.7
r197 26 32 3.12463
r198 26 53 16.0034
r199 25 32 3.12463
r200 25 52 27.5556
r201 14 16 25
r202 13 61 0.0501534
r203 13 14 1.7
r204 9 16 4.17508
r205 9 10 0.833027
r206 5 10 5.18609
r207 5 49 16.0034
r208 4 10 5.18609
r209 3 12 69.9487
r210 3 4 16.0034
.ends

.subckt PM_MUX%NET12 3 15 16 21 36 37 39 41 46 51 52 54 79 81 84 87 89 90 93 94
+ 95 96 99 100 101
c196 101 0 1.8333e-19
c197 95 0 1.44885e-20
c198 94 0 1.03218e-19
c199 89 0 1.95189e-19
c200 54 0 1.37104e-19
c201 41 0 1.71613e-19
c202 3 0 1.5009e-19
r203 99 101 0.0864182
r204 96 101 0.0774177
r205 94 99 0.0477651
r206 94 95 0.817126
r207 93 95 0.0477651
r208 93 100 0.0864182
r209 90 100 0.0782361
r210 79 89 141.169
r211 78 87 129.829
r212 54 56 25
r213 53 96 0.0592722
r214 53 54 1.7
r215 51 56 4.17508
r216 51 52 0.833027
r217 47 52 5.18609
r218 47 79 16.0034
r219 46 52 5.18609
r220 46 78 27.5556
r221 40 90 0.0592722
r222 40 41 1.7
r223 38 41 0.118087
r224 38 39 0.081146
r225 36 41 0.102983
r226 36 37 0.081146
r227 33 81 30
r228 30 33 0.674397
r229 30 81 10
r230 27 30 1.01159
r231 27 81 10
r232 24 27 1.01159
r233 24 81 10
r234 21 24 1.01159
r235 21 39 0.598527
r236 21 81 10
r237 17 37 0.0874363
r238 15 17 0.0479332
r239 15 16 0.212982
r240 13 84 10
r241 10 13 0.582909
r242 10 84 10
r243 7 10 0.582909
r244 7 84 10
r245 3 7 0.592624
r246 3 84 10
r247 1 16 0.0479332
r248 1 13 0.276882
.ends

.subckt PM_MUX%NET11 3 15 16 21 36 37 39 41 46 52 56 79 81 84 87 89 90 93 94 95
+ 96 99 100 101
c196 94 0 4.9088e-20
c197 89 0 1.95189e-19
c198 87 0 1.86058e-19
c199 41 0 2.61172e-19
c200 3 0 1.5009e-19
r201 99 101 0.259255
r202 96 101 0.0783014
r203 94 99 0.0477651
r204 94 95 3.04741
r205 93 95 0.0477651
r206 93 100 0.259255
r207 90 100 0.0784212
r208 79 89 141.169
r209 78 87 129.829
r210 53 56 5.42761
r211 52 56 25
r212 51 96 0.0592722
r213 51 52 1.7
r214 47 53 3.12463
r215 47 79 16.0034
r216 46 53 3.12463
r217 46 78 27.5556
r218 40 90 0.0592722
r219 40 41 1.7
r220 38 41 0.118087
r221 38 39 0.081146
r222 36 41 0.102983
r223 36 37 0.081146
r224 33 81 30
r225 30 33 0.674397
r226 30 81 10
r227 27 30 1.01159
r228 27 81 10
r229 24 27 1.01159
r230 24 81 10
r231 21 24 1.01159
r232 21 39 0.598527
r233 21 81 10
r234 17 37 0.0874363
r235 15 17 0.0479332
r236 15 16 0.212982
r237 13 84 10
r238 10 13 0.582909
r239 10 84 10
r240 7 10 0.582909
r241 7 84 10
r242 3 7 0.592624
r243 3 84 10
r244 1 16 0.0479332
r245 1 13 0.276882
.ends

.subckt PM_MUX%OUT 3 15 16 21 36 37 39 40 41 53 56 59
r88 40 59 0.00524858
r89 40 41 1.7
r90 38 41 0.118087
r91 38 39 0.081146
r92 36 41 0.102983
r93 36 37 0.081146
r94 33 53 30
r95 30 33 0.674397
r96 30 53 10
r97 27 30 1.01159
r98 27 53 10
r99 24 27 1.01159
r100 24 53 10
r101 21 24 1.01159
r102 21 39 0.598527
r103 21 53 10
r104 17 37 0.0874363
r105 15 17 0.0479332
r106 15 16 0.212982
r107 13 56 10
r108 10 13 0.582909
r109 10 56 10
r110 7 10 0.582909
r111 7 56 10
r112 3 7 0.592624
r113 3 56 10
r114 1 16 0.0479332
r115 1 13 0.276882
.ends

